US06486333B1
Synthesis of N,N-dimethyl-N-(2-phenylethyl)oxycarbonylmethyl-N-(3-(dodecanoylamino)propyl)ammonium chloride
A 14.22 g (0.050 mol) portion of N-dodecanoyl-N′,N′-dimethyl-1,3-diaminopropane and 120 ml of diethyl ether were put into a flask, and 9.93 g (0.050 mol) of 2-phenylethyl chloroacetate was added thereto at 0 to 5° C. spending 5 minutes. The reaction mixture was further stirred at 25° C. for 24 hours, and disappearance of the most part of chloroacetate was confirmed by 1H-NMR. Next, the reaction mixture was slowly added dropwise to 600 ml of hexane which was ice-cooled and vigorously stirred, spending 10 minutes, to effect precipitation of the product as a white solid. Thereafter, in the same manner as described in Inventive Example 1, the title compound (to be referred to as betaine ester (11) hereinafter) was obtained as a white powder. Yield 20.10 g (0.0416 mol; yield 83.2%).

reactant | N-dodecanoyl-N′,N′-dimethyl-1,3-diaminopropane | C(CCCCCCCCCCC)(=O)NCCCN(C)C | C17H36N2O
reactant | diethyl ether | 120 ml | C(C)OCC | C4H10O
reactant | 2-phenylethyl chloroacetate | 0.050 mol, 9.93 g | ClCC(=O)OCCC1=CC=CC=C1 | C10H11ClO2
reactant | chloroacetate | ClCC(=O)[O-]
solvent | hexane | 600 ml | CCCCCC | C6H14
product | N,N-dimethyl-N-(2-phenylethyl)oxycarbonylmethyl-N-(3-(dodecanoylamino)propyl)ammonium chloride | yield 83.2% | [Cl-].C[N+](CCCNC(CCCCCCCCCCC)=O)(CC(=O)OCCC1=CC=CC=C1)C | InChI=1S/C27H46N2O3.ClH/c1-4-5-6-7-8-9-10-11-15-19-26(30)28-21-16-22-29(2,3)24-27(31)32-23-20-25-17-13-12-14-18-25;/h12-14,17-18H,4-11,15-16,19-24H2,1-3H3;1H
